US05580883
1-tert-Butyloxycarbonyl-4-[(4-nitrophenyloxy)methyl]piperidine (1.9 g) was dissolved in ethanol (40 ml) and to the mixture was added conc. hydrochloric acid (0.5 ml). By using 10% palladium/carbon as a catalyst, catalytic reduction was conducted at normal pressure and room temperature overnight. After completion of the reaction, the catalyst was removed by filtration and the filtrate was concentrated under reduced pressure. The concentrate was diluted with methylene chloride and washed with aqueous saturated solution of sodium bicarbonate. The organic layer was dried over sodium sulfate and concentrated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (developing solvent: hexane/ethyl acetate=1/1 (v/v)) to obtain 1-tert-butyloxycarbonyl-4-[(4-aminophenyloxy)methyl]piperidine (1.0 g) as white crystals, m.p. 100°-101° C.

reactant | 1-tert-Butyloxycarbonyl-4-[(4-nitrophenyloxy)methyl]piperidine | 1.9 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=CC=C(C=C1)[N+](=O)[O-] | C17H24N2O5
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium/carbon | [Pd] | Pd
product | 1-tert-butyloxycarbonyl-4-[(4-aminophenyloxy)methyl]piperidine | 1.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=CC=C(C=C1)N | C17H26N2O3
